US08425881B2
At 120° C., p-iodoanisole is reacted with 2-methoxyphenylboronic acid in the presence of palladium tetraphenyl phosphate, potassium carbonate and the phase transfer catalyst, tetrabutyl ammonium bromide to yield 2,4′-dimethoxybiphenyl (66%), which is then brominated at 0° C. in ethylene dichloride to produce 5,5′-dibromo-2,4′-dimethoxybiphenyl in 80% yield. n-butyl bromide is reacted with the dibromo intermediate in the presence of magnesium and cuprous iodide at −10° C. to produce in 50% yield 3′,5-dibutyl-2,4′-dimethoxy-1,1′-biphenyl. Demethylation with boron tribromide gives 3′,5-dibutyl-2,4′-dihydroxy-1,1′-biphenyl (17% yield).

reactant | p-iodoanisole | IC1=CC=C(C=C1)OC | C7H7IO
reactant | 2-methoxyphenylboronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutyl ammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,4′-dimethoxybiphenyl | 66% | COC1=C(C=CC=C1)C1=CC=C(C=C1)OC | C14H14O2
